US07186714B2
To a cold (−78° C.) suspension of 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine-3-carbaldehyde (0.94 g, 3.42 mmol) in tetrahydrofuran (20 mL) was added ethynylmagnesium bromide (15 mL, 0.5 M in tetrahydrofuran, 7.5 mmol) dropwise. The reaction mixture was stirred at −78° C. for 1 hour, then at 0° C. for 2 hours. The resulting solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine and the combined organics were dried over magnesium sulfate. Filtration and concentration gave a white solid. This solid was dissolved in dichlormethane (60 mL) and to this solution was added manganese dioxide (10 g, 115 mmol). The reaction mixture was stirred at room temperature for 1 hour. The suspension was filtered through a pad of Celite and the filtrate was concentrated and purified by silica gel chromatography (1:1 hexanes:ethyl acetate) to give 1-[8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-one (0.56 g, 55%) as a white solid. 1H NMR (CDCl3) δ 9.67 (d, 1H), 7.68 (m, 3H), 7.12 (m, 3H), 2.89 (s, 1H); 19F NMR (CDCl3) δ −111.6; MS m/z 299 (M+1).

reactant | 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine-3-carbaldehyde | 3.42 mmol, 0.94 g | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C=O | C14H8ClFN2O
reactant | ethynylmagnesium bromide | 7.5 mmol, 0.5 M, 15 mL | C(#C)[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dichlormethane | 60 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 115 mmol, 10 g | [O-2].[O-2].[Mn+4]
product | 1-[8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-one | 0.56 g, 55% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C(C#C)=O | C16H8ClFN2O
